US06908926B1
3,3-Dimethyl-1-(1,4,6,7-tetrahydroimidazo[4,5-c]pyridin-5-yl)-butan-1-one
At 0° C., EDC (0.45 g, 2.4 mmol) was added to a solution of tert-butylacetic acid (0.30 mL, 2.3 mmol), and 1-hydroxy-7-azabenzotriazole (0.32 g, 2.4 mmol) in dichloromethane (30 mL). The reaction mixture was stirred for 20 min at 0° C. 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine dihydrochloride (0.50 g, 2.4 mmol) was added. Ethyldiisopropylamine (0.40 mL, 2.4 mmol) was added. The reaction mixture was stirred for 16 h at room temperature. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with 10% aqueous sodium hydrogen sulfate solution (100 mL). A 1 N solution of sodium hydroxide was added to the aqueous solution until pH 12 was obtained. It was extracted with ethyl acetate (2×100 mL). These organic extracts were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent to give 125 mg of the title compound.

reactant | EDC | 2.4 mmol, 0.45 g
reactant | tert-butylacetic acid | 2.3 mmol, 0.30 mL | C(C)(C)(C)CC(=O)O | C6H12O2
reactant | 1-hydroxy-7-azabenzotriazole | 2.4 mmol, 0.32 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine dihydrochloride | 2.4 mmol, 0.50 g | Cl.Cl.N1C=NC=2CNCCC21
reactant | Ethyldiisopropylamine | 2.4 mmol, 0.40 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3,3-Dimethyl-1-(1,4,6,7-tetrahydroimidazo[4,5-c]pyridin-5-yl)-butan-1-one | 125 mg | CC(CC(=O)N1CC2=C(CC1)NC=N2)(C)C | C12H19N3O
